US07977331B1
To a solution of methyl 4-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoate (81 mg, 0.13 mmol) in tetrahydrofuran (8.0 ml) and methanol (2.0 ml) was added 2N aqueous sodium hydroxide solution (1.0 ml, 2.0 mmol), and the mixture was stirred at room temperature for 64 hr. The solvent was evaporated under reduced pressure, 1N aqueous HCl solution (3.0 ml, 3.0 mmol) and methanol (1.0 ml) were added, and the mixture was stirred. The precipitate was collected by filtration to give 4-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoic acid (73 mg, yield 92%).

reactant | methyl 4-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoate | 0.13 mmol, 81 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)NC(C(=O)NC2=CC=C(C(=O)OC)C=C2)(C)C | C36H39N3O6
reactant | sodium hydroxide | 2.0 mmol, 2N, 1.0 ml | [OH-].[Na+]
reactant | HCl | 3.0 mmol, 1N, 3.0 ml | Cl | ClH
solvent | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
solvent | methanol | 2.0 ml | CO | CH4O
solvent | methanol | 1.0 ml | CO | CH4O
product | 4-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoic acid | 73 mg, yield 92% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)NC(C(=O)NC2=CC=C(C(=O)O)C=C2)(C)C | C35H37N3O6
